US06500863B1
N-[3-(4-morpholinyl)propyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide
Following the general hydrolysis procedure outlined in example 15, N-[3-(4-morpholinyl)propyl]-2,6-dichloro-3-nitrobenzenesulfonamide (10 g, 2.51 mmol), 60% NaH (301 mg, 7.53 mmol) and water (54 μL, 3.0 mmol) were reacted. The mixture was acidified with 4.ON HCl in 1,4-dioxane and concentrated to give the crude product (1.01 g), which was carried onto the next steps without purification. LC-MS 380.0 (M+).

reactant | N-[3-(4-morpholinyl)propyl]-2,6-dichloro-3-nitrobenzenesulfonamide | 2.51 mmol, 10 g | N1(CCOCC1)CCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C13H17Cl2N3O5S
reactant | NaH | 7.53 mmol, 301 mg | [H-].[Na+]
reactant | water | 3.0 mmol, 54 μL | O | H2O
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(4-morpholinyl)propyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 1.01 g | N1(CCOCC1)CCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C13H18ClN3O6S
